US07105544B2
2-(4-CHLOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)PROPANAMIDE
Example 100 was prepared from 2-(4-chlorophenyl)propanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.56 (d, 1H, J=2.0 Hz), 7.34–7.28 (m, 5H), 7.21 (dd, 1H, J=2.0. 8.0 Hz), 7.09 (d, 1H, J=8.0 Hz), 6.98 (br s, 1H), 3.55 (q, 1H, J=7.2 Hz), 3.34 (m, 2H), 3.02 (d, 1H, J=11.6 Hz), 2.93 (d, 1H, J=11.6 Hz), 2.68 (m, 1H), 2.51 (m, 1H), 2.39 (dt, 2H, J=6.8, 2.0 Hz), 2.29 (s, 3H), 2.04–1.97 (m, 2H), 1.80–1.60 (m, 6H), 1.52 (d, 3H, J=7.2 Hz), 1.24 (dd, 6H, J=1.6, 6.8 Hz); ESMS m/e: 484.3 (M+H)+.

reactant | 2-(4-chlorophenyl)propanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)C | C9H9ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | 2-(4-CHLOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)PROPANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C1=C(C=CC(=C1)NC(C(C)C)=O)C)C | C28H38ClN3O2
